US05189054
Scheme I, step d2 : 3-[(3,4-difluorophenacyl)amino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(3,4-difluorophenacyl)amino]-2-carbmethoxy-6-chloroindole (5.2 mmol), di-tert-butyl dicarbonate (1.19 g, 5.4 mmol), tetrahydrofuran (50 mL), dimethylaminopyridine (52 mg, 0.5 mmol) and stir for 6 hours. Dilute the reaction with ethyl acetate, wash with water, dry over magnesium sulfate, filter and concentrate in vacuo to yield the title compound.

reactant | 3-[(3,4-difluorophenacyl)amino]-2-carbmethoxy-6-chloroindole | 5.2 mmol | FC=1C=C(C(CNC2=C(NC3=CC(=CC=C23)Cl)C(=O)OC)=O)C=CC1F | C18H13ClF2N2O3
reactant | di-tert-butyl dicarbonate | 5.4 mmol, 1.19 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | 0.5 mmol, 52 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(3,4-difluorophenacyl)amino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole | FC=1C=C(C(CNC2=C(N(C3=CC(=CC=C23)Cl)C(=O)OC(C)(C)C)C(=O)OC)=O)C=CC1F | C23H21ClF2N2O5
